US07439397B2
(3R)-3-[2-(Isobutyryloxy)-5-hydroxymethylphenyl]-N,N-diisopropyl-N-methyl-3-phenylpropan-1-aminium bromide
(3R)-3-[2-hydroxy-5-(hydroxymethyl)phenyl]-N,N-diisopropyl-N-methyl-3-phenylpropan-1-aminium bromide is acylated with isobutyryl bromide to give the title compound.

reactant | (3R)-3-[2-hydroxy-5-(hydroxymethyl)phenyl]-N,N-diisopropyl-N-methyl-3-phenylpropan-1-aminium bromide | [Br-].OC1=C(C=C(C=C1)CO)[C@H](CC[N+](C)(C(C)C)C(C)C)C1=CC=CC=C1
reactant | isobutyryl bromide | C(C(C)C)(=O)Br | C4H7BrO
product | (3R)-3-[2-(Isobutyryloxy)-5-hydroxymethylphenyl]-N,N-diisopropyl-N-methyl-3-phenylpropan-1-aminium bromide | [Br-].C(C(C)C)(=O)OC1=C(C=C(C=C1)CO)[C@H](CC[N+](C)(C(C)C)C(C)C)C1=CC=CC=C1 | InChI=1S/C27H40NO3.BrH/c1-19(2)27(30)31-26-14-13-22(18-29)17-25(26)24(23-11-9-8-10-12-23)15-16-28(7,20(3)4)21(5)6;/h8-14,17,19-21,24,29H,15-16,18H2,1-7H3;1H/q+1;/p-1/t24-;/m1./s1
